US06046213
A mixture of 3-(4-fluorophenylsulfanyl)-8-(2,2,2-trichloroethoxycarbonyl)-8-azabicyclo-(3.2.1)-octane (the compound of Preparation 37, 10.28 g, 24.92 mmol), 48% HBr (20 mL), and acetic acid (80 mL) was heated to 110° C. for 78 h. The reaction was adjusted to pH 11 by addition of 4 N sodium hydroxide and extracted with methylene chloride. The organic phase was filtered through Diatomaceous earth, washed with brine, dried over calcium sulfate and concentrated. The residue was kugelrohr distilled (110° C. (pot temperature), 1.5 mm Hg) to give 3.30 g of 3-(4-fluorophenylsulfanyl)-8-azabicyclo-(3.2.1)-octane as a yellow oil which had NMR δ 7.41 (dd, J=5.5, 9 Hz, 2 H), 7.00 (long range coupled t, J=8.5 Hz, 2 H), 4.11 (s, impurity), 3.55 (br t, J=3.5 Hz, 2 H), 3.24 (sym m, 1 H), 2.58 (br s, 2 H, exchanges with D2O, should integrate for 1 H), 1.90-1.77 (m, 4 H), 1.70-1.51 (m, 4 H). This product was suitable for use without further purification.

reactant | 3-(4-fluorophenylsulfanyl)-8-(2,2,2-trichloroethoxycarbonyl)-8-azabicyclo-(3.2.1)-octane | FC1=CC=C(C=C1)SC1CC2CCC(C1)N2C(=O)OCC(Cl)(Cl)Cl | C16H17Cl3FNO2S
reactant | HBr | 20 mL | Br | BrH
reactant | sodium hydroxide | 4 N | [OH-].[Na+]
solvent | acetic acid | 80 mL | C(C)(=O)O | C2H4O2
product | 3-(4-fluorophenylsulfanyl)-8-azabicyclo-(3.2.1)-octane | 3.30 g | FC1=CC=C(C=C1)SC1CC2CCC(C1)N2 | C13H16FNS
